US07947728B1
3-Amino-2-methyl benzyl alcohol (0.82 g, 5.98 mmol), acetic anhydride (1.68 mL, 17.8 mmol), potassium acetate (1.75 g, 17.8 mol), isoamyl nitrite (1.82 mL, 13.7 mmol) and 18-crown-6 (79 mg, 0.3 mmol) in 25 mL CHCl3 were reacted as described in EP99/07620. The crude product was purified by flash chromatography with a gradient from 0-35% ethyl acetate in hexanes to yield acetic acid 1-acetyl-1H-indazol-4-ylmethyl ester.

reactant | 3-Amino-2-methyl benzyl alcohol | 5.98 mmol, 0.82 g | NC=1C(=C(CO)C=CC1)C | C8H11NO
reactant | acetic anhydride | 17.8 mmol, 1.68 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 17.8 mol, 1.75 g | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrite | 13.7 mmol, 1.82 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | 18-crown-6 | 0.3 mmol, 79 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | acetic acid 1-acetyl-1H-indazol-4-ylmethyl ester | C(C)(=O)N1N=CC2=C(C=CC=C12)COC(C)=O | C12H12N2O3
